US06828320B2
(4-(3-Fluorobenzyloxy)-phenyl)-(6-(5-trifluoromethyl-1,3,4-oxadiazol-2-yl)-quinazolin-4-yl)-aminehydrochloride
The title compound was prepared according to Procedure A from 4-(3-fluoro-benzyloxy)aniline and 4-chloro-6-(5-trifluoromethyl-1,3,4-oxadiazol-2-yl)-quinazoline; δH [2H6]DMSO 11.74(1H, bs), 9.51(1H, s), 8.91(1H, s), 8.66(1H, dd), 8.12(1H, d), 7.65(2H, d), 7.48(1H, m), 7.32(2H, m), 7.19(1H, m), 7.17(2H, d), 5.20(2H, s); m/z (M+1+) 482.

reactant | 4-(3-fluoro-benzyloxy)aniline | FC=1C=C(COC2=CC=C(N)C=C2)C=CC1 | C13H12FNO
reactant | 4-chloro-6-(5-trifluoromethyl-1,3,4-oxadiazol-2-yl)-quinazoline | ClC1=NC=NC2=CC=C(C=C12)C=1OC(=NN1)C(F)(F)F | C11H4ClF3N4O
product | (4-(3-Fluorobenzyloxy)-phenyl)-(6-(5-trifluoromethyl-1,3,4-oxadiazol-2-yl)-quinazolin-4-yl)-aminehydrochloride | Cl.FC=1C=C(COC2=CC=C(C=C2)NC2=NC=NC3=CC=C(C=C23)C=2OC(=NN2)C(F)(F)F)C=CC1 | InChI=1S/C24H15F4N5O2.ClH/c25-16-3-1-2-14(10-16)12-34-18-7-5-17(6-8-18)31-21-19-11-15(4-9-20(19)29-13-30-21)22-32-33-23(35-22)24(26,27)28;/h1-11,13H,12H2,(H,29,30,31);1H
